US09212187B2
Synthesis of N-methyl-4-{[N-[5-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)pentyl]-N-(2-pyridin-3-ylethyl)amino]methyl}benzamide dihydrochloride
Diethyl phosphorocyanidate (39.1 mg) was added to a DMF solution (1 ml) of 4-{[N-[5-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)pentyl]-N-(2-pyridin-3-ylethyl)amino]methyl}benzoic acid (0.10 g), methylamine hydrochloride (27 mg), and triethylamine (0.07 ml), and the mixture was stirred at room temperature overnight. Ice water was added to the reaction mixture, and extraction with ethyl acetate was performed. The organic layer was washed with water and a saturated sodium chloride aqueous solution, in this order, then dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=10:1). The purified product was concentrated under reduced pressure. A 1N-hydrogen chloride ethanol solution (0.16 ml) was added to the solution of the residue in ethanol, and stirred for 30 minutes at room temperature. The precipitated insoluble matter was collected by filtration, washed with ethyl acetate, and dried to give the title compound (81.3 mg) as a white powder.

reactant | Diethyl phosphorocyanidate | 39.1 mg | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
reactant | 4-{[N-[5-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)pentyl]-N-(2-pyridin-3-ylethyl)amino]methyl}benzoic acid | 0.10 g | CN1C(C=CC2=CC(=CC=C12)OCCCCCN(CCC=1C=NC=CC1)CC1=CC=C(C(=O)O)C=C1)=O | C30H33N3O4
reactant | methylamine hydrochloride | 27 mg | Cl.CN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.07 ml | C(C)N(CC)CC | C6H15N
product | N-methyl-4-{[N-[5-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)pentyl]-N-(2-pyridin-3-ylethyl)amino]methyl}benzamide dihydrochloride | 81.3 mg | Cl.Cl.CNC(C1=CC=C(C=C1)CN(CCC=1C=NC=CC1)CCCCCOC=1C=C2C=CC(N(C2=CC1)C)=O)=O | InChI=1S/C31H36N4O3.2ClH/c1-32-31(37)26-10-8-25(9-11-26)23-35(19-16-24-7-6-17-33-22-24)18-4-3-5-20-38-28-13-14-29-27(21-28)12-15-30(36)34(29)2;;/h6-15,17,21-22H,3-5,16,18-20,23H2,1-2H3,(H,32,37);2*1H
